US08614201B2
B: [2-(3-Bromo-benzylamino)-phenyl]-methanol
Under a nitrogen atmosphere, sodium borohydride (0.1172 mol) was added slowly to a mixture of 2-(3-bromo-phenyl)-1,4-dihydro-2H-benzo[d][1,3]oxazine (0.0586 mol) in ethanol (200 mL). The reaction mixture was stirred and refluxed for 1 hour. The mixture was cooled on an ice-water bath, quenched with NH4Cl 20% and extracted with DCM. The organic layer was dried, filtered and the solvent was evaporated, yielding 14.8 g of the desired product.

reactant | sodium borohydride | 0.1172 mol | [BH4-].[Na+]
reactant | 2-(3-bromo-phenyl)-1,4-dihydro-2H-benzo[d][1,3]oxazine | 0.0586 mol | BrC=1C=C(C=CC1)C1OCC2=C(N1)C=CC=C2 | C14H12BrNO
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | [2-(3-Bromo-benzylamino)-phenyl]-methanol | 14.8 g | BrC=1C=C(CNC2=C(C=CC=C2)CO)C=CC1 | C14H14BrNO
